US07084164B2
3-Amino-2-methylbenzamide
2-Methyl-3-nitrobenzamide (8.85 g) was dissolved in a mixture solvent of ethanol (300 ml) and tetrahydrofuran (200 ml), followed by addition of 10% palladium-carbon (800 mg). The resulting mixture was stirred under hydrogen atmosphere at ambient temperature and atmospheric pressure for 6 hours. After insoluble materials were filtered off, the filtrate was concentrated under reduced pressure and washed with isopropyl ether, to afford the entitled compound as white solid (6.73 g, 91%). The physico-chemical values are as follows.

reactant | 2-Methyl-3-nitrobenzamide | 8.85 g | CC1=C(C(=O)N)C=CC=C1[N+](=O)[O-] | C8H8N2O3
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 800 mg | [C].[Pd]
product | 3-Amino-2-methylbenzamide | 6.73 g, 91% | NC=1C(=C(C(=O)N)C=CC1)C | C8H10N2O
